US05155122
In a manner analogous to Example 70, 0.5 g (0.002 mole) of 4-[3-(chloromethyl)-1,2,4-oxadiazol-5-yl]-2,6-bis(1,1-dimethylethyl)phenol is reacted with excess dimethylamine gas to give 0.3 g (59%) of analytically pure 4-[3-[(dimethyamino)methyl]-1,2,4-oxadiazol-5-yl]-2,6-bis(1,1-dimethylethyl)phenol, mp 129°-130° C.

reactant | 4-[3-(chloromethyl)-1,2,4-oxadiazol-5-yl]-2,6-bis(1,1-dimethylethyl)phenol | 0.002 mole, 0.5 g | ClCC1=NOC(=N1)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C17H23ClN2O2
reactant | dimethylamine | CNC | C2H7N
product | 4-[3-[(dimethyamino)methyl]-1,2,4-oxadiazol-5-yl]-2,6-bis(1,1-dimethylethyl)phenol | CN(C)CC1=NOC(=N1)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C19H29N3O2
